US06177419B1
6-(5-Fluoro-2-hydroxyphenyl)-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine was prepared from 6-bromo-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine and 5-fluoro-2-hydroxyphenylboronic acid in 50% yield using method F; δH [2H6]-DMSO 13.09,(1H, b), 12.63,(1H, b), 8.36,(2H, m), 8.22,(4H, m), 7,99,(1H, d), 7.64,(1H, s), 7.22,(1H, t), 7.05-6.91,(3H, m), 3.80,(3H, s).

reactant | 6-bromo-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine | BrC1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC(=C1)OC)O | C17H13BrN2O2
reactant | 5-fluoro-2-hydroxyphenylboronic acid | FC=1C=CC(=C(C1)B(O)O)O | C6H6BFO3
product | 6-(5-Fluoro-2-hydroxyphenyl)-6′-(2-hydroxy-5-methoxyphenyl)-2,2′-bipyridine | 50% yield | FC=1C=CC(=C(C1)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C=CC(=C1)OC)O)O | C23H17FN2O3
